US07060425B1
5-Methyl-5-(4-hydroxy-3-isopropyl phenyl)-hexanoic acid methyl ester (10.0 g), glyoxylic acid (6.4 g of the 50% solution in water) and p-toluene sulphonic acid (40 mg) are heated in 40 ml of ethylene chloride under nitrogen at reflux in an apparatus designed for the removal of water. After 5 hours the reaction mixture is cooled to room temperature, washed two times with 25 ml water, dried over magnesium sulphate and evaporated under reduced pressure to give 13 g of 7-isopropyl-5-(4-methoxycarbonyl-1,1-dimethylbutyl)-3-hydroxy-3H-benzofuran-2-one as a yellow oil.

reactant | 5-Methyl-5-(4-hydroxy-3-isopropyl phenyl)-hexanoic acid methyl ester | 10.0 g | COC(CCCC(C)(C1=CC(=C(C=C1)O)C(C)C)C)=O | C17H26O3
reactant | glyoxylic acid | C(C=O)(=O)O | C2H2O3
reactant | p-toluene sulphonic acid | 40 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
solvent | ethylene chloride | 40 ml | C(CCl)Cl | C2H4Cl2
product | 7-isopropyl-5-(4-methoxycarbonyl-1,1-dimethylbutyl)-3-hydroxy-3H-benzofuran-2-one | 13 g | C(C)(C)C1=CC(=CC=2C(C(OC21)=O)O)C(CCCC(=O)OC)(C)C | C19H26O5
